US06962914B2
To a solution of N-cyclopentyl-4-[5,7-dichloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine (0.04 g, 0.1 mmol) in cyclopentylamine (4 mL) was added racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (25 mg), cesium carbonate (50 mg) and palladium (II) acetate (5 mg). The resulting mixture was stirred at 80° C. for 24 hours. Water was added and the mixture was extracted with ethyl acetate. The ethyl acetate phase was washed with brine, dried (magnesium sulfate), filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography (3:7 ethyl acetate-hexane) to give 30 mg (68%) of N-{4-[5-chloro-7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-cyclopentylamine as a yellow foam. 1H NMR (CDCl3): δ 8.00 (d, 1H), 7.82 (s, 1H), 7.61 (m, 2H), 7.15 (t, 2H), 6.23 (d, 1H), 6.06 (d, 1H), 6.00 (s, 1H), 5.11 (d, 1H), 4.35 (m, 1H), 3.95 (m, 1H), 2.0-2.1 (m, 4H), 1.5-1.9 (m, 12H); 19F NMR (CDCl3): δ−113.0; MS m/z 491 (M+1).

reactant | N-cyclopentyl-4-[5,7-dichloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | 0.1 mmol, 0.04 g | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=C(C=C2Cl)Cl)C2=CC=C(C=C2)F | C22H18Cl2FN5
reactant | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 25 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 50 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
reactant | cyclopentylamine | 4 mL | C1(CCCC1)N | C5H11N
catalyst | palladium (II) acetate | 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-{4-[5-chloro-7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-cyclopentylamine | 30 mg, 68% | ClC1=CC=2N(C(=C1)NC1CCCC1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C27H28ClFN6
